US08791129B2
(2-Bromobenzyl)cyclopropylmethylamine
53 mg of sodium hydride in 3 ml of tetrahydrofuran are added to 300 mg of (2-bromobenzyl)cyclopropylamine in 2 ml of tetrahydrofuran with ice-cooling. 207 μl of iodomethane are subsequently added, and the mixture is heated at 600 for 1 h. The mixture is allowed to cool and poured onto 20 g of ice and 5 ml of 1N hydrochloric acid, washed 4 times with 10 ml of ethyl acetate each time, and the combined organic phases are dried over sodium sulfate. After filtration, the filtrate is evaporated to dryness.

reactant | sodium hydride | 53 mg | [H-].[Na+]
reactant | (2-bromobenzyl)cyclopropylamine | 300 mg | BrC1=C(CNC2CC2)C=CC=C1 | C10H12BrN
reactant | iodomethane | 207 μl | IC | CH3I
reactant | hydrochloric acid | 1N, 5 ml | Cl | ClH
solvent | tetrahydrofuran | 3 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 2 ml | O1CCCC1 | C4H8O
product | (2-Bromobenzyl)cyclopropylmethylamine | BrC1=C(CNCC2CC2)C=CC=C1 | C11H14BrN
